US07378409B2
A solution of tert-butyl(1R,3R,4S)-(4-benzyloxycarbonylamino-3-hydroxymethyl-cyclohexyl)carbamate (1.0 g), 2-hydroxypyridine (377 mg), and tributylphosphine (0.78 mL) in benzene (20 mL) was stirred at 0° C. and treated dropwise over 15 min with diisopropyl azodicarboxylate (0.8 g). The mixture was stirred overnight at rt and concentrated under vacuum. The residue was purified by radial preparative-layer chromatography to provide tert-butyl(1R,3S,4S)-(4-benzyloxycarbonylamino-3-((2-oxopyridin-1(2H)-yl)methyl)cyclohexyl)carbamic acid (1.06 g). MS found: (M+H)+=456.4.

reactant | tert-butyl(1R,3R,4S)-(4-benzyloxycarbonylamino-3-hydroxymethyl-cyclohexyl)carbamate | 1.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)CO | C20H30N2O5
reactant | 2-hydroxypyridine | 377 mg | OC1=NC=CC=C1 | C5H5NO
reactant | tributylphosphine | 0.78 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | diisopropyl azodicarboxylate | 0.8 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | tert-butyl(1R,3S,4S)-(4-benzyloxycarbonylamino-3-((2-oxopyridin-1(2H)-yl)methyl)cyclohexyl)carbamic acid | 1.06 g | C(C)(C)(C)N(C(O)=O)[C@H]1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)CN1C(C=CC=C1)=O | C25H33N3O5
